US08865911B2
2-Bromo-4-(prop-1-ynyl)pyridine
To a solution of 2-bromo-4-iodopyridine (2 g, 7.04 mmo, copper(I) iodide (0.080 mL, 2.11 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.407 g, 0.35 mmol) in toluene (85 mL) was added 1-(trimethylsilyl)-1-propyne (1.054 mL, 7.04 mmol), triethylamine (3.24 mL, 23.25 mmol) and tetrabutylammonium fluoride (1 M in THF, 7.04 mL, 7.04 mmol) and the resulting mixture was stirred under an argon atmosphere at r.t. overnight. The mixture was concentrated and the resulting residue was partitioned between water (10 mL) and DCM (10 mL) and poured into a phase separator. The organic phase was collected, and the aqueous phase was extracted once with DCM (10 mL). The combined organics were concentrated and purified by flash chromatography using 0% to 30% EtOAc in heptane to give the title compound (1.195 g, 87% yield): 1H NMR (500 MHz, DMSO-d6) δ ppm 2.11 (s, 3 H), 7.42 (dd, 1 H), 7.65 (s, 1 H), 8.35 (dd, 1 H); MS (ES+) m/z 196 [M+H]+; MS (APCI+) m/z 196 [M+H]+.

reactant | 2-bromo-4-iodopyridine | BrC1=NC=CC(=C1)I | C5H3BrIN
reactant | 1-(trimethylsilyl)-1-propyne | 7.04 mmol, 1.054 mL | C[Si](C#CC)(C)C | C6H12Si
reactant | triethylamine | 23.25 mmol, 3.24 mL | C(C)N(CC)CC | C6H15N
reactant | tetrabutylammonium fluoride | 7.04 mmol, 1 M, 7.04 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 85 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper(I) iodide | 2.11 mmol, 0.080 mL | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.35 mmol, 0.407 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Bromo-4-(prop-1-ynyl)pyridine | 1.195 g, 87% yield | BrC1=NC=CC(=C1)C#CC | C8H6BrN
